US04945113
Preparation of N,N-bis[5-(2-chloro-4-(trifluoromethyl) phenoxy)-2-nitrobenzoyl]methane sulfonamide (Compound 1)
To N-methylsulfonyl-5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitro-benzamide (20.0 grams, 45.6 millimoles) dissolved in 100 ml tetrahydrofuran was added potassium tertiary butoxide in tetrahydrofuran with cooling. A solution of the acid chloride product as described in Example 1 in tetrahydrofuran was then added and the mixture stirred at ambient temperature for forty eight hours under nitrogen with precautions taken to exclude moisture throughout this procedure. The mixture was then diluted with toluene, washed three times with water and saturated sodium chloride solution. The organic phase was concentrated by vacuum to dryness. The residue was shaken with toluene then reconcentrated three times. The final residue was covered with toluene, shaken, the insolubles filtered off, and washed several more times with toluene and hexane. The material was triturated for 30 minutes by stirring with 50 ml hexane. The insolubles were filtered off and dried. The material was purified further by trituration with 5% potassium carbonate followed by drying and recrystallization from toluene/hexane mixtures. The desired product had a melting point of 165.5°-167.5° C.

reactant | N-methylsulfonyl-5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitro-benzamide | 45.6 millimoles, 20.0 grams | CS(=O)(=O)NC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O | C15H10ClF3N2O6S
reactant | potassium tertiary butoxide | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-bis[5-(2-chloro-4-(trifluoromethyl) phenoxy)-2-nitrobenzoyl]methane sulfonamide | ClC1=C(OC=2C=CC(=C(C(=O)N(S(=O)(=O)C)C(C3=C(C=CC(=C3)OC3=C(C=C(C=C3)C(F)(F)F)Cl)[N+](=O)[O-])=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C29H15Cl2F6N3O10S
